US06344449B1
f) 3,4-dihydro-3-(4-piperidinyl]-2(1H)-pyrido[2,3-d]-pyrimidinone
A solution of 4.7 g (0.0146 mol) of 3,4-dihydro-3-[1-(phenylmethyl)-4-piperidinyl]-2(1H)-pyrido[2,3-d]-pyrimidinone in 50 ml of methanol was hydrogenated at a temperature of 50° C. and in the presence of 2.0 g of 20% palladium/charcoal until the uptake of hydrogen ceased. After removal of the catalyst and solvent 3.3 g (97.3% of theory) of a colourless oil of Rf=0.35 (FM1) were obtained.

reactant | 3,4-dihydro-3-[1-(phenylmethyl)-4-piperidinyl]-2(1H)-pyrido[2,3-d]-pyrimidinone | 0.0146 mol, 4.7 g | C1(=CC=CC=C1)CN1CCC(CC1)N1C(NC2=C(C1)C=CC=N2)=O | C19H22N4O
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium/charcoal | 2.0 g | [Pd] | Pd
product | 3,4-dihydro-3-(4-piperidinyl]-2(1H)-pyrido[2,3-d]-pyrimidinone | N1CCC(CC1)N1C(NC2=C(C1)C=CC=N2)=O | C12H16N4O
